US05665718
2.98 g (9.25 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2, 1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at 75° for 60 hours with 3.2 g (25 mmol) of N-ethyldiisopropylamine and 2.5 g (18.5 mmol) of 4-bromo-1-butene in 20 ml of N,N-dimethylformamide. By evaporation of the solvent and chromatography of the residue on silica gel while eluting with ethyl acetate there was obtained 0.62 g (15%) of (S)-1-{3-[bis-(but-3-enyl)aminomethyl]-1,2,4-oxadiazol-5-yl}-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one which was converted into the hydrochloride of m.p. 80°-87°.

reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2, 1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 9.25 mmol, 2.98 g | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H14N6O2
reactant | N-ethyldiisopropylamine | 25 mmol, 3.2 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-bromo-1-butene | 18.5 mmol, 2.5 g | BrCCC=C | C4H7Br
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-1-{3-[bis-(but-3-enyl)aminomethyl]-1,2,4-oxadiazol-5-yl}-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.62 g, 15% | C(CC=C)N(CCC=C)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C24H26N6O2
